US04051254
3,5-Dimethyl-4-(ethanesulfonamido)phenyl N-methylcarbamate
3,5-Dimethyl-4-aminophenyl N-methylcarbamate (1.0g., 0.0052 mole), prepared according to the general directions of A. T. Shulgin, U.S. Pat. No. 3,084,098 was dissolved in 5 ml. of pyridine. To this solution was added ethanesulfonyl chloride (0.68g., and 0.0053 mole) and after being stirred for about 20 minutes the reaction solution was warmed briefly at 42° C. Quenching the reaction solution in excess water yielded brown solids which upon being recrystallized from ethanol/water melted at 171°-73° C. (0.85g.).

reactant | 3,5-Dimethyl-4-aminophenyl N-methylcarbamate | 0.0052 mole, 1.0g | CNC(OC1=CC(=C(C(=C1)C)N)C)=O | C10H14N2O2
reactant | ethanesulfonyl chloride | 0.0053 mole, 0.68g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3,5-Dimethyl-4-(ethanesulfonamido)phenyl N-methylcarbamate | CNC(OC1=CC(=C(C(=C1)C)NS(=O)(=O)CC)C)=O | C12H18N2O4S
